US07772221B2
Step DM (1): (S)-2-(3,3,3-Trifluoro-N-methyl-propylsulfonamido)pent-4-enoic acid (33 mg, 0.11 mmol, from Preparation J) was coupled with (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-dichloro-phenyl)butan-2-ol (50 mg, from Preparation BG) by a procedure analogous to Step DL (1) to afford 19.1 mg of (S)-N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-dichlorophenyl)-3-hydroxybutan-2-yl)-2-(3,3,3-trifluoro-N-methylpropylsulfonamido)pent-4-enamide as a clear oil. LC-MS Rt 2.10 min (method A), (M+H)+=722.1, 724.0; HRMS (M+H)+=722.2031; 1H NMR (500 MHz, CDCl3) δ 7.35 (d, J=8.2, 1H) 7.18 (s, 1H) 7.08 (s, 2H) 6.95 (d of d, J=8.5, 2.1, 1H) 6.78 (d, J=8.8, 1H) 5.91 (m, 1H) 5.66 (m, 1H) 5.31 (d, J=17.4, 1H) 5.24-5/12 (m, 3H) 4.82 (d, J=4.6, 1H) 4.72 (br d, J=6.7, 1H) 4.21 (d of d, J=5.2, 5.2, 1H) 4.10 (m, 3H) 4.01 (m, 3H) 3.80 (s, 3H) 3.26 (d, J=12.2, 1H) 3.10 (m, 5H) 2.90-2.80 (m, 2H) 2.72-2.50 (m, 5H0, 2.56 (s, 3H) 2.44-2.31 (m, 2H) 1.32 (t, J=7.3, 2H) 1.24 (s, 1H).

reactant | (S)-2-(3,3,3-Trifluoro-N-methyl-propylsulfonamido)pent-4-enoic acid | 0.11 mmol, 33 mg | FC(CCS(=O)(=O)N(C)[C@H](C(=O)O)CC=C)(F)F | C9H14F3NO4S
reactant | (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-dichloro-phenyl)butan-2-ol | 50 mg | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)Cl)Cl)N)O | C23H28Cl2N2O3
product | (S)-N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-dichlorophenyl)-3-hydroxybutan-2-yl)-2-(3,3,3-trifluoro-N-methylpropylsulfonamido)pent-4-enamide | 19.1 mg | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)Cl)Cl)NC([C@H](CC=C)N(S(=O)(=O)CCC(F)(F)F)C)=O)O | C32H40Cl2F3N3O6S
